US07057046B2
(S)-1-allyl-3-t-butyloxycarbonylamino-3,4-dihydrocarbostyril (9.7 mg) was dissolved in 4 M hydrogen chloride in 1,4-dioxane solution (2 mL) at room temperature, and a white precipitate soon formed. After 30 min the solvent was evaporated under vacuum, and the residue was twice taken up in toluene (5 mL) and evaporated to provide (S)-1-allyl-3-amino-3,4-dihydrocarbostyril hydrochloride (7.6 mg).

reactant | (S)-1-allyl-3-t-butyloxycarbonylamino-3,4-dihydrocarbostyril | 9.7 mg | C(C=C)N1C(=O)[C@H](CC2=CC=CC=C12)NC(=O)OC(C)(C)C | C17H22N2O3
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-1-allyl-3-amino-3,4-dihydrocarbostyril hydrochloride | 7.6 mg | Cl.C(C=C)N1C(=O)[C@H](CC2=CC=CC=C12)N | InChI=1S/C12H14N2O.ClH/c1-2-7-14-11-6-4-3-5-9(11)8-10(13)12(14)15;/h2-6,10H,1,7-8,13H2;1H/t10-;/m0./s1
